US07449528B2
Synthesis of magnesium-monochloride-(2,4-dichloro-phenylacetate)
215 grams (1.05 moles) of 2,4-dichloro-phenylacetic acid are added to 95.2 grams (1 mole) of MgCl2 suspended in 2 liters of heptane. The suspension is brought to reflux temperature under a light stream of nitrogen and is maintained at boiling point until the complete development of HCl (8-12 hours). After cooling, the reaction mixture is treated with 10.1 g (0.1 moles) of triethylamine and filtered. 253.2 g (96% yield) of white solid are obtained from the filtrate, after evaporation and subsequent drying, with the following elemental analysis:

reactant | 2,4-dichloro-phenylacetic acid | 1.05 moles, 215 grams | ClC1=C(C=CC(=C1)Cl)CC(=O)O | C8H6Cl2O2
reactant | MgCl2 | 1 mole, 95.2 grams | [Mg+2].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
reactant | triethylamine | 0.1 moles, 10.1 g | C(C)N(CC)CC | C6H15N
solvent | heptane | 2 liters | CCCCCCC | C7H16
product | magnesium-monochloride-(2,4-dichloro-phenylacetate) | 253.2 g, 96% yield | ClC1=C(C=CC(=C1)Cl)CC(=O)[O-].[Cl-].[Mg+2] | InChI=1S/C8H6Cl2O2.ClH.Mg/c9-6-2-1-5(3-8(11)12)7(10)4-6;;/h1-2,4H,3H2,(H,11,12);1H;/q;;+2/p-2
